US05391541
By the method of Example 1, Step E, 10.92 grams (0.046 mole) of 2,5-dichloro-3-methoxyphenylacetic acid and 40 mL of thionyl chloride were reacted in approximately 200 mL of carbon tetrachloride, yielding 11.92 grams of 2,5-dichloro-3-methoxyphenylacetyl chloride as a black oil. The IR spectrum was consistent with the proposed structure.

reactant | 2,5-dichloro-3-methoxyphenylacetic acid | 0.046 mole, 10.92 grams | ClC1=C(C=C(C=C1OC)Cl)CC(=O)O | C9H8Cl2O3
reactant | thionyl chloride | 40 mL | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | approximately 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,5-dichloro-3-methoxyphenylacetyl chloride | 11.92 grams | ClC1=C(C=C(C=C1OC)Cl)CC(=O)Cl | C9H7Cl3O2
